US05264573
Preparation of sodium 2-chlorohypoxanthine hydrate
In order to prepare the sodium salt of 2-chlorohypoxanthine in highly pure form, 2-chloro-hypoxanthine-hydrochloride-monohydrate is suspended in water. Whilst cooling, the pH is adjusted to a value in the range from 9 to 10, preferably, 9.5 to 10, and more preferably, 9.7, using an aqueous solution of an inorganic base, preferably a solution of an alkali metal hydroxide and more preferably using concentrated sodium hydroxide solution.

reactant | sodium | [Na] | Na
reactant | 2-chlorohypoxanthine | ClC=1NC(C=2NC=NC2N1)=O | C5H3ClN4O
reactant | 2-chloro-hypoxanthine-hydrochloride-monohydrate | O.Cl.ClC=1NC(C=2NC=NC2N1)=O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | sodium 2-chlorohypoxanthine hydrate | O.ClC=1NC(C=2NC=NC2N1)=O.[Na] | InChI=1S/C5H3ClN4O.Na.H2O/c6-5-9-3-2(4(11)10-5)7-1-8-3;;/h1H,(H2,7,8,9,10,11);;1H2
